US07122550B2
N-Benzyl-6-chloro-N-methylpyrazin-2-amine
In a procedure analogous to Example 21, reaction of N-methyl benzylamine and 2,6-dichloropyrazine furnished the product (70%).

reactant | N-methyl benzylamine | CNCC1=CC=CC=C1 | C8H11N
reactant | 2,6-dichloropyrazine | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | N-Benzyl-6-chloro-N-methylpyrazin-2-amine | 70% | C(C1=CC=CC=C1)N(C1=NC(=CN=C1)Cl)C | C12H12ClN3
